US08802678B2
To a solution of 1.6 g (3.8 mmol) of 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}-N-methoxy-N-methylbenzamide in 25 mL of dry tetrahydrofuran cooled to 0° C. are added 8 mL of 1M ethylmagnesium bromide solution in tetrahydrofuran. The mixture is stirred for 90 minutes then poured in 100 mL of an aqueous saturated sodium hydrogen carbonate solution. The product is extracted twice with ethyl acetate. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue (1.4 g) is purified over 50 g of silica gel (eluant heptane/ethyl acetate 1/1) to give 1.06 g (72%) of 1-(3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}phenyl)propan-1-one as an oil.

reactant | 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}-N-methoxy-N-methylbenzamide | 3.8 mmol, 1.6 g | O1CCOC12CCC(CC2)CCN2CCN(CC2)C=2C=C(C(=O)N(C)OC)C=CC2 | C23H35N3O4
reactant | ethylmagnesium bromide | 1M, 8 mL | C(C)[Mg]Br
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
product | 1-(3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}phenyl)propan-1-one | 1.06 g, 72% | O1CCOC12CCC(CC2)CCN2CCN(CC2)C=2C=C(C=CC2)C(CC)=O | C23H34N2O3
